US04677129
(a) 1-(4-aminophenyl)-3-isobutyl-3-azabicYclo[3.1.1]heptane-2,4-dione
In a manner analogous to that described in Example 1, 2.0 g of 3-isobutyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione in 100 ml of ethanol are hydrogenated in the presence of 0.1 g of palladium-on-carbon and worked up. Melting point 158°-160° (from ethyl acetate/petroleum ether).

reactant | 3-isobutyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]-heptane-2,4-dione | 2.0 g | C(C(C)C)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H18N2O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
product | 1-(4-aminophenyl)-3-isobutyl-3-azabicYclo[3.1.1]heptane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C(C1)C2)=O)CC(C)C)=O | C16H20N2O2
